US08076356B2
3-tert-Butyl-1-pyridin-2-yl-1H-pyrazol-5-amine
The title compound was prepared from 4,4-dimethyl-3-oxopentane nitrile and 2-hydrazinopyridine, using the same method as that described for preparation 7, as a solid in 99% yield.

reactant | 4,4-dimethyl-3-oxopentane nitrile | CC(C(CC#N)=O)(C)C | C7H11NO
reactant | 2-hydrazinopyridine | N(N)C1=NC=CC=C1 | C5H7N3
product | 3-tert-Butyl-1-pyridin-2-yl-1H-pyrazol-5-amine | 99% yield | C(C)(C)(C)C1=NN(C(=C1)N)C1=NC=CC=C1 | C12H16N4
